US05571810
A mixture of 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (1.8 g) and (triphenylphosphoranylidene)acetonitrile (3.2 g) in toluene (40 ml) was refluxed for 28 hours. The mixture was cooled and filtered. The filtrate was concentrated and the residue (4.2 g) was purified by column chromatography on silica gel eluting with a mixture of toluene and ethyl acetate (10:1). The obtained crystals (1.8 g) were recrystallized from ethanol to give colorless crystals of 3-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}-2-butenenitrile (1.5 g).

reactant | 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 1.8 g | C(C)(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO3S2
reactant | (triphenylphosphoranylidene)acetonitrile | 3.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC#N | C20H16NP
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 3-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}-2-butenenitrile | 1.5 g | FC1=CC=C(C=C1)C1=C(C=C(S1)C(=CC#N)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H16FNO2S2
